US07358248B2
Step 2: Preparation of Methyl-3-(4′-dibenzofuran-4-yl-biphen-4ylmethylsulfanyl)-2(2-fluoro-5-trifluoromethylbenzoylamino)-propionate
2-Fluoro-5-trifluoromethylbenzoic acid (49 mg, 0.24 mmol) was added to a stirred solution of methyl-2-amino-3-(4′-dibenzofuran-4-ylbipheny-4-ylmethylsulfanyl)-propionate (92 mg, 0.2 mmol), EDCI (58 mg, 0.3 mmol) and triethylamine (404 mg, 0.56 mL, 0.4 mmol) in anhyd methylene chloride (5 mL). The reaction mixture was stirred at room temperature for 4-6 h (TLC control) and then diluted with water (10 mL). The reaction mixture was extracted with ethyl acetate (2×20 mL). The combined organic extract were washed with water, sat'd aq NaCl, dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification by flash column chromatography (30% ethyl acetate in heptane) afforded the title compound has a white solid (117 mg).

reactant | 2-Fluoro-5-trifluoromethylbenzoic acid | 0.24 mmol, 49 mg | FC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H4F4O2
reactant | methyl-2-amino-3-(4′-dibenzofuran-4-ylbipheny-4-ylmethylsulfanyl)-propionate | 0.2 mmol, 92 mg | COC(C(CSCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)N)=O | C29H25NO3S
reactant | EDCI | 0.3 mmol, 58 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 0.4 mmol, 0.56 mL, 404 mg | C(C)N(CC)CC | C6H15N
solvent | water | 10 mL | O | H2O
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | Methyl-3-(4′-dibenzofuran-4-yl-biphen-4ylmethylsulfanyl)-2(2-fluoro-5-trifluoromethylbenzoylamino)-propionate | COC(C(CSCC1=CC=C(C=C1)C1=CC=C(C=C1)C1=CC=CC2=C1OC1=C2C=CC=C1)NC(C1=C(C=CC(=C1)C(F)(F)F)F)=O)=O | C37H27F4NO4S
